US04524068
Preparation of the β-cyclodextrin-piperonyl butoxide complex in solution
10 g (8.81 millimoles) of β-cyclodextrin are dissolved in 48% by Vol. ethanol at 60°-70° C. To this solution a solution of 4 ml (4.22 g, 12.48 millimoles) of piperonyl butoxide in 48% ethanol (1:1 Vol.ratio) is slowly added under stirring. The reaction mixture is worked up as described in Example 1.

reactant | β-cyclodextrin | 8.81 millimoles, 10 g | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | piperonyl butoxide | 12.48 millimoles, 4 ml, 4.22 g | CCCCOCCOCCOCC=1C=C2C(=CC1CCC)OCO2 | C19H30O5
solvent | ethanol | C(C)O | C2H6O
product | β-cyclodextrin piperonyl butoxide | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O.CCCCOCCOCCOCC=1C=C2C(=CC1CCC)OCO2 | InChI=1S/C42H70O35.C19H30O5/c43-1-8-29-15(50)22(57)36(64-8)72-30-9(2-44)66-38(24(59)17(30)52)74-32-11(4-46)68-40(26(61)19(32)54)76-34-13(6-48)70-42(28(63)21(34)56)77-35-14(7-49)69-41(27(62)20(35)55)75-33-12(5-47)67-39(25(60)18(33)53)73-31-10(3-45)65-37(71-29)23(58)16(31)51;1-3-5-7-20-8-9-21-10-11-22-14-17-13-19-18(23-15-24-19)12-16(17)6-4-2/h8-63H,1-7H2;12-13H,3-11,14-15H2,1-2H3/t8-,9-,10-,11-,12-,13-,14-,15-,16-,17-,18-,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34-,35-,36-,37-,38-,39-,40-,41-,42-;/m1./s1
